US07678818B2
c) Preparation of 5-chloro-2-isopropylamino-benzoic acid
To a solution of 480 mg of 5-chloro-2-isopropylamino-benzoic acid methyl ester in methanol (5 ml) were added 3.16 ml of a 1N NaOH solution and the mixture was stirred for 4 d at RT. Then the reaction mixture was concentrated in vacuo and the remaining residue dissolved in water. The resulting solution was washed with ethyl acetate and then the pH was adjusted to 1 with 1N HCl solution and the mixture was extracted with ethyl acetate. The combined organic extracts were dried (MgSO4), filtered and concentrated to give the title compound as an off-white solid (429 mg, 95%). NMR (CDCl3, 300 MHz): δ 1.27 (d, J=6.3 Hz, 6H), 3.70 (sept, J=6.3 Hz, 1H), 6.65 (d, J=9.1 Hz, 1H), 7.31 (dd, J=9.1 and 2.7 Hz, 1H), 7.92 (d, J=2.7 Hz, 1H).

reactant | 5-chloro-2-isopropylamino-benzoic acid methyl ester | 480 mg | COC(C1=C(C=CC(=C1)Cl)NC(C)C)=O | C11H14ClNO2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 5-chloro-2-isopropylamino-benzoic acid | 429 mg, 95% | ClC=1C=CC(=C(C(=O)O)C1)NC(C)C | C10H12ClNO2
